US08198269B2
(1) Synthesis of (±)-(3aR*,7aS*)-7a-(5-bromo-2-fluorophenyl)-hexahydropyrano[3,4-c]isoxazole
1,3-Dibromo-4-fluorobenzene (837 mg) was dissolved in a toluene-THF (10:1) mixture (15 ml). The mixture was cooled to −78° C. and n-butyllithium (2.64 M, 1.19 ml) was added dropwise. After stirring at the same temperature for one hour, a solution of (±)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole obtained in Preparation Example 1-(2) (200 mg) in toluene-THF (10:1) (5.0 ml) and a boron trifluoride-diethyl ether complex (394 μl) were added dropwise at the same time. After stirring at the same temperature for three hours, the reaction was terminated with an ammonium chloride solution. The aqueous layer was extracted with ethyl acetate, and the organic layer was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (365 mg).

reactant | 1,3-Dibromo-4-fluorobenzene | 837 mg | BrC1=CC(=C(C=C1)F)Br | C6H3Br2F
reactant | n-butyllithium | 2.64 M, 1.19 ml | C(CCC)[Li]
reactant | (±)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole | N=1OCC2C1COCC2 | C6H9NO2
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
solvent | toluene THF | 5.0 ml | C1(=CC=CC=C1)C.C1CCOC1
product | (±)-(3aR*,7aS*)-7a-(5-bromo-2-fluorophenyl)-hexahydropyrano[3,4-c]isoxazole | 365 mg | BrC=1C=CC(=C(C1)[C@@]12NOC[C@@H]1CCOC2)F | C12H13BrFNO2
